US08623902B2
Sodium hydride 55% in oil (1.4 g; 29.8 mmol) was added portionwise over 10 minutes to a stirred solution of 2,4,6-trichlorophenol (5.89 g; 29.8 mmol) in dry dimethylformamide (90 ml) at a temperature of 10° C. under nitrogen. The reaction mixture was stirred for 20 minutes at ambient temperature followed by the addition of (S)-tetrahydro-pyrrolo[1,2-c][1,2,3]oxathiazole 1,1-dioxide (5.0 g; 30.6 mmol), which was prepared as described in example P14, in dimethylformamide (25 ml). The reaction mixture was stirred for 4 hours at ambient temperature then poured onto 1M HCl (400 ml) and extracted with ethyl acetate (2×200 ml). The combined ethyl acetate layers are washed with water (2×100 ml), saturated NaCl (100 ml) and then dried over Na2SO4. After removal of the solvent the residue (11.1 g oil) was dissolved in dioxane (150 ml) and treated with sulphuric acid (2.9 ml) and water (2.9 ml). The reaction mixture was stirred at ambient temperature for 15 hours. The reaction mixture was poured on sat. NaHCO3 (300 ml) and extracted with dichloromethane (3×200 ml). The organic layers are washed with saturated NaCl (100 ml) and then dried over Na2SO4. After evaporation of the solvent, the crude product (7.16 g in the form of a orange oil) was purified by flash chromatography over silica gel (eluent:dichloromethane/methanol 9:1) to afford 3.53 g (42.0% of theory) of (S)-2-(2,4,6-trichloro-phenoxymethyl)-pyrrolidine as a oil.

reactant | Sodium hydride | [H-].[Na+]
reactant | 2,4,6-trichlorophenol | 29.8 mmol, 5.89 g | ClC1=C(C(=CC(=C1)Cl)Cl)O | C6H3Cl3O
reactant | (S)-tetrahydro-pyrrolo[1,2-c][1,2,3]oxathiazole 1,1-dioxide | 30.6 mmol, 5.0 g | S1(OC[C@H]2N1CCC2)(=O)=O | C5H9NO3S
reactant | HCl | 1M, 400 ml | Cl | ClH
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (S)-2-(2,4,6-trichloro-phenoxymethyl)-pyrrolidine | 3.53 g, 42.0% | ClC1=C(OC[C@H]2NCCC2)C(=CC(=C1)Cl)Cl | C11H12Cl3NO
